US08389699B2
G1 (4-aminomethyl benzoic acid, 7.5 g, 50 mmol) was suspended in 75 mL DCM, and 10 mL TEA was added, followed by 20 mL trifluoroacetic anhydride (TFAA), and then 10 mL more TEA, so that all reactants dissolved after a while. The mixture was diluted with 500 mL ethyl acetate (EA), washed two times with 1 N HCl (100 mL portions), then two times with 100 mL portions of brine. The organic layer was dried over Na2SO4, filtered, rotoevaporated, and subjected to high vacuum to remove some of the excess trifluoroacetic acid (TFA). The dried material was redissolved in 300 mL 5% NaHCO3 solution and washed two times with EA (100 mL portions), acidified with 6 N HCl, and extracted two times with EA (250 mL portions). The combined EA layers were washed two times with brine (100 mL portions), then dried over Na2SO4, filtered, and rotoevaporated. The collected product was then crystallized from 100 mL EA, yielding 6.0 g of crystalline 4-(trifluoroacetyl)aminomethyl benzoic acid (first crop) and an additional 1.8 g in a second crop (total 7.8 g).

reactant | 4-aminomethyl benzoic acid | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | trifluoroacetic anhydride | 20 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-(trifluoroacetyl)aminomethyl benzoic acid | 6.0 g | FC(C(=O)NCC1=CC=C(C(=O)O)C=C1)(F)F | C10H8F3NO3
